US04369321
The N-butyl-N-ethoxycarbonyl-2,2,6,6-tetramethyl-4-piperidylamine is prepared by reacting N-butyl-2,2,6,6-tetramethyl-4-piperidylamine with ethyl chlorocarbonate at 15°-25° C. in toluene in the presence of an aqueous solution of K2CO3. The product obtained, which is 99.2% pure, is employed directly, without any purification.

reactant | N-butyl-2,2,6,6-tetramethyl-4-piperidylamine | C(CCC)NC1CC(NC(C1)(C)C)(C)C | C13H28N2
reactant | ethyl chlorocarbonate | C(OCC)(=O)Cl | C3H5ClO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-butyl-N-ethoxycarbonyl-2,2,6,6-tetramethyl-4-piperidylamine | C(CCC)N(C(=O)OCC)C1CC(NC(C1)(C)C)(C)C | C16H32N2O2
